US07807709B2
Cyclopropyl-(tetrahydro-pyran-3-ylmethyl)-carbamoyl chloride
The title compound is prepared analogously as described for benzyl-cyclopropyl-carbamoyl chloride starting from cyclopropyl-(tetrahydro-pyran-3-ylmethyl)-amine (prepared analogously as described for benzyl-cyclopropylmethyl-amine). TLC, Rf (CH2Cl2/MeOH 95:5)=0.9.

reactant | benzyl-cyclopropyl-carbamoyl chloride | C(C1=CC=CC=C1)N(C(=O)Cl)C1CC1 | C11H12ClNO
reactant | cyclopropyl-(tetrahydro-pyran-3-ylmethyl)-amine | C1(CC1)NCC1COCCC1 | C9H17NO
reactant | benzyl-cyclopropylmethyl-amine | C(C1=CC=CC=C1)NCC1CC1 | C11H15N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | Cyclopropyl-(tetrahydro-pyran-3-ylmethyl)-carbamoyl chloride | C1(CC1)N(C(=O)Cl)CC1COCCC1 | C10H16ClNO2
